US08871782B2
tert-Butyl 2-{[4-amino-2-ethyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethylcarbamate (1.8 g, 3.83 mmol) was added to 4.0M ethanolic hydrogen chloride (13 mL) and the reaction was heated to 65° C. for 1 hour. The milky slurry solidified after 20 minutes. Ethanol (10 mL) was added to loosen the solid. After 1 hour, the heat was removed and the reaction was allowed to cool to ambient temperature. Filtration afforded 1.3 g of 7-(2-aminoethoxy)-2-ethyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-4-amine dihydrochloride as a white solid, mp 238° C., decomposition.

reactant | tert-Butyl 2-{[4-amino-2-ethyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethylcarbamate | 3.83 mmol, 1.8 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC2CCOCC2)CC)OCCNC(OC(C)(C)C)=O | C25H35N5O4
reactant | hydrogen chloride | 4.0M, 13 mL | Cl | ClH
solvent | Ethanol | 10 mL | C(C)O | C2H6O
product | 7-(2-aminoethoxy)-2-ethyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-4-amine dihydrochloride | 1.3 g | Cl.Cl.NCCOC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC3CCOCC3)CC | InChI=1S/C20H27N5O2.2ClH/c1-2-17-24-18-19(25(17)12-13-5-8-26-9-6-13)15-4-3-14(27-10-7-21)11-16(15)23-20(18)22;;/h3-4,11,13H,2,5-10,12,21H2,1H3,(H2,22,23);2*1H
